US05049671
(±)-cis-4-(2-Amino-6-((2-hydroxy-1-(hydroxymethyl)ethyl)amino)-9H-purin-9-yl)-2-cyclopentene-1-methanol
A solution of serinol hydrochloride (0.765 g, 6.00 mmol) in methanol (20 mL) was stirred with basic ion exchange resin for 10 minutes. The resin was filtered off and the filtrate concentrated to a colorless oil. To this was added (±)-cis-4-(2-amino-6-chloro-9H-purin-9-yl)-2-cyclopentene-1-methanol (0.544 g, 2.00 mmol) and methanol (10 mL). The resulting solution was stirred in a Parr bomb at 80° C. overnight. 1N NaOH (2 mL) was added and the solvent evaporated. The residue was chromatrographed on silica gel. Title compound eluted with 20% methanol-chloroform; white powder after crystallization from acetonitrile-methanol (0.404 g, 63%), m.p. 160-162° C.

reactant | serinol hydrochloride | 6.00 mmol, 0.765 g | Cl.NC(CO)CO
reactant | (±)-cis-4-(2-amino-6-chloro-9H-purin-9-yl)-2-cyclopentene-1-methanol | 2.00 mmol, 0.544 g | NC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)CO)Cl | C11H12ClN5O
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
product | (±)-cis-4-(2-Amino-6-((2-hydroxy-1-(hydroxymethyl)ethyl)amino)-9H-purin-9-yl)-2-cyclopentene-1-methanol | NC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)CO)NC(CO)CO | C14H20N6O3
